US04026899
By the condensation of 1-chloro-6-methoxy-4-methyl-9-xanthenone with 2-(diethylamino)ethyl hydrazine was obtained 2-(2-(diethylamino)ethyl)-8-methoxy-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole. To 0.27 g. of this base in acetone (4 ml.) was added 30% aqueous hydrogen peroxide (0.35 ml.). After standing for 90 hours at room temperature the solution was evaporated under reduced pressure. Addition of ether to an ethanolic solution of the residue gave an oil which slowly crystallized. Further crystallization from acetonitrile gave yellow crystals m.p. 132°-133° (decomp.) of 2-(2-(diethylamino)ethyl)-8-methoxy-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole N-oxide 1.75 hydrate.

reactant | 1-chloro-6-methoxy-4-methyl-9-xanthenone | ClC1=CC=C(C=2OC3=CC(=CC=C3C(C12)=O)OC)C | C15H11ClO3
reactant | 2-(diethylamino)ethyl hydrazine | C(C)N(CCNN)CC | C6H17N3
product | 2-(2-(diethylamino)ethyl)-8-methoxy-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole | C(C)N(CCN1N=C2C=3C(=C(C=CC13)C)OC1=C2C=CC(=C1)OC)CC | C21H25N3O2
